Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:3],4.10547077677
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:6][H:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.99573400554
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3],0.3675765546500001
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][H:4],3.10719644233
[C:10]([H:11])=[C:12]([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.443733373040001
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.34669522612
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.74402420275
[C:8][H:9].[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[C:8][H:9])[C:10]([H:11])([H:12])[H:13],-2.61516845741
[H:1][O:2][C:3]#[C:4][C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-2.46779363457
[C:1]#[C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9],-1.49640545968
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],6.022784966290001
[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]#[C:2][O:3]/[C:4]=[C:5](\[H:6])[O:8][H:9].[H:7],2.5651098163
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14],3.88765128418
[O:1]=[C:2]1[C:3]([O:4][H:5])[C:6]1([H:7])[H:8]>>[O:1]=[C:2][C:6]([C:3][O:4][H:5])([H:7])[H:8],1.20047451601
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-5.23251433707
[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.42525418859
[C:3]([H:4])=[C:5]([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12],-6.7947018548
[C:1]=[C:2]([O:3][H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:3][H:4],4.84848958167
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:10]#[C:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9],5.583725901039998
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14].[H:10],4.3930840990099975
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8],4.0815651348
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],4.57429900138
[H:12].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-2.04655944241
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10].[O:1],6.0099343992900005
[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.95232585616
[H:3].[O:1]=[C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-4.39235060325
[H:3].[O:1]=[C:2]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][C@:2]([H:3])([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-0.273013909967
[H:11].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.93486310662
